US09359359B2
To a solution of the 6-aminopyrimidine-2,4(1H,3H)-dione (15 g, 118 mmol) in 1,1,1,3,3,3-hexamethyldisilazane (50 mL) was added ammonium sulfate (0.671 g, 5 mmol), then the resulting mixture was heated to reflux with stirring for 6 h. The mixture was concentrated to give a light-yellow solid. This solid was combined with acetonitrile (50 mL) and iodomethane (15 mL, 250 mmol) was added. The resulting mixture was stirred at 40° C. for 16 h. Then the mixture was concentrated, neutralized with saturated sodium bicarbonate to pH=7, filtered, and the filter cake was washed with brine and ethanol, dried under vacuum to give 6-amino-3-methylpyrimidine-2,4 (1H,3H)-dione (7.1 g, 42.6% yield) as yellow solid. LCMS MH+ 142.

reactant | 6-aminopyrimidine-2,4(1H,3H)-dione | 118 mmol, 15 g | NC1=CC(NC(N1)=O)=O | C4H5N3O2
reactant | ammonium sulfate | 5 mmol, 0.671 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
reactant | iodomethane | 250 mmol, 15 mL | IC | CH3I
solvent | 1,1,1,3,3,3-hexamethyldisilazane | 50 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 6-amino-3-methylpyrimidine-2,4 (1H,3H)-dione | 7.1 g, 42.6% yield | NC1=CC(N(C(N1)=O)C)=O | C5H7N3O2
